// Generated for: spectre
// Generated on: May 18 05:30:06 2026
// Design library name: example
// Design cell name: inverter
// Design view name: schematic
simulator lang=spectre
global 0
parameters vdd=0.5 vg=0.5
include "/apps/cds/IC618/local/GPDK045/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: example
// Cell name: inverter
// View name: schematic
I0 (vout vin 0) CNTFET_VA tox=2 Lg=10 eps_ox=3.9 V_th=0.258 Wid=1 \
        smooth_delta=1e-12 vds_floor=1e-06 gmin_ds=1e-12
I1 (vout vin vdd) CNTFET_PFET_VA tox=2 Lg=10 eps_ox=3.9 V_th=-0.258 Wid=1 \
        smooth_delta=1e-12 vds_floor=1e-06 gmin_ds=1e-12
V1 (vdd 0) vsource dc=vdd type=dc
V0 (vin 0) vsource dc=vg type=dc
V2 (net2 0) vsource dc=0 type=pulse val0=0 val1=500.0m period=100p delay=0 \
        rise=1p fall=1p width=50p
nodeset vout=0 
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=vg start=0 stop=0.5 step=0.01 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save vin vout 
saveOptions options save=allpub
ahdl_include "/ecel/UFAD/tanvir.ahmed/Desktop/Verilog/CNTFET/example/nfet/veriloga/veriloga.va"
ahdl_include "/ecel/UFAD/tanvir.ahmed/Desktop/Verilog/CNTFET/example/pfet/veriloga/veriloga.va"
