// Generated for: spectre
// Generated on: May 14 20:01:20 2026
// Design library name: example
// Design cell name: hfet_tb
// Design view name: schematic
simulator lang=spectre
global 0
parameters vdd=15 vg=5
include "/apps/cds/IC618/local/GPDK045/gpdk045/../models/spectre/gpdk045.scs" section=mc

// Library name: example
// Cell name: hfet_tb
// View name: schematic
I0 (net2 net1 0) HFETVA Lsg=1 Lgd=6 Lg=1.4 hpas=0.2 hAlGaN=0.02 hch=0.01 \
        hg=0.11 current_mode=2 gmin_ds=1e-12 vds_sign_delta=0.0001
V1 (net2 0) vsource dc=vdd type=dc
V0 (net1 0) vsource dc=vg type=dc
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=vg start=-2 stop=8 step=0.1 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save I0:d 
saveOptions options save=allpub
ahdl_include "/ecel/UFAD/tanvir.ahmed/Desktop/Verilog/HFET/example/hfet/veriloga/veriloga.va"
