// Generated for: spectre
// Generated on: May 13 11:19:18 2026
// Design library name: example
// Design cell name: 3_stage_ring_osc_fringing_cap
// Design view name: schematic
simulator lang=spectre
global 0

// Library name: example
// Cell name: 3_stage_ring_osc_fringing_cap
// View name: schematic
I47 (vout n2 vdd) SiNanosheetFET_PFET_ML tox=2 Lg=10 eps_ox=4 V_th=-0.2 \
        ln_eps=1e-05 smooth_delta=1e-12 vds_floor=1e-06 \
        vds_sign_smooth=0.001 exp_arg_limit=80 log_id_min=-120 \
        log_id_max=80 gmin_ds=1e-12 Wid=1 qraw_to_c=1e-16 qdensity_scale=1
I41 (n1 vout vdd) SiNanosheetFET_PFET_ML tox=2 Lg=10 eps_ox=4 V_th=-0.2 \
        ln_eps=1e-05 smooth_delta=1e-12 vds_floor=1e-06 \
        vds_sign_smooth=0.001 exp_arg_limit=80 log_id_min=-120 \
        log_id_max=80 gmin_ds=1e-12 Wid=1 qraw_to_c=1e-16 qdensity_scale=1
I42 (n2 n1 vdd) SiNanosheetFET_PFET_ML tox=2 Lg=10 eps_ox=4 V_th=-0.2 \
        ln_eps=1e-05 smooth_delta=1e-12 vds_floor=1e-06 \
        vds_sign_smooth=0.001 exp_arg_limit=80 log_id_min=-120 \
        log_id_max=80 gmin_ds=1e-12 Wid=1 qraw_to_c=1e-16 qdensity_scale=1
V2 (vdd 0) vsource dc=500.0m type=dc
I44 (n2 n1 0) SiNanosheetFET_NFET_ML tox=2 Lg=10 eps_ox=4 V_th=0.2 \
        ln_eps=1e-05 smooth_delta=1e-12 vds_floor=1e-06 \
        vds_sign_smooth=0.001 exp_arg_limit=80 log_id_min=-120 \
        log_id_max=80 gmin_ds=1e-12 Wid=1 qraw_to_c=1e-16 qdensity_scale=1
I45 (vout n2 0) SiNanosheetFET_NFET_ML tox=2 Lg=10 eps_ox=4 V_th=0.2 \
        ln_eps=1e-05 smooth_delta=1e-12 vds_floor=1e-06 \
        vds_sign_smooth=0.001 exp_arg_limit=80 log_id_min=-120 \
        log_id_max=80 gmin_ds=1e-12 Wid=1 qraw_to_c=1e-16 qdensity_scale=1
I14 (n1 vout 0) SiNanosheetFET_NFET_ML tox=2 Lg=10 eps_ox=4 V_th=0.2 \
        ln_eps=1e-05 smooth_delta=1e-12 vds_floor=1e-06 \
        vds_sign_smooth=0.001 exp_arg_limit=80 log_id_min=-120 \
        log_id_max=80 gmin_ds=1e-12 Wid=1 qraw_to_c=1e-16 qdensity_scale=1
C11 (n2 0) capacitor c=200.0a
C6 (n2 n1) capacitor c=200.0a
C10 (vout n2) capacitor c=200.0a
C3 (vout 0) capacitor c=200.0a
C5 (n1 n2) capacitor c=200.0a
C9 (n2 vout) capacitor c=200.0a
C4 (vdd n1) capacitor c=200.0a
C7 (n1 0) capacitor c=200.0a
C2 (n1 vout) capacitor c=200.0a
C0 (vdd vout) capacitor c=200.0a
C8 (vdd n2) capacitor c=200.0a
C1 (vout n1) capacitor c=200.0a
nodeset vout=0 n2=0.25 n1=0.5 
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=300p maxstep=0.5p ic=node skipdc=yes write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save vout n1 n2 
saveOptions options save=allpub
ahdl_include "/ecel/UFAD/tanvir.ahmed/Desktop/Verilog/SiNanosheetFET/ade/example/pfet/veriloga/veriloga.va"
ahdl_include "/ecel/UFAD/tanvir.ahmed/Desktop/Verilog/SiNanosheetFET/ade/example/nfet/veriloga/veriloga.va"
