// Generated for: spectre
// Generated on: May 11 04:08:57 2026
// Design library name: example
// Design cell name: inverter_tb
// Design view name: schematic
simulator lang=spectre
global 0
parameters vg=0.3 vdd=0.5

// Library name: example
// Cell name: inverter_tb
// View name: schematic
C3 (vin 0) capacitor c=200a
C2 (vout vin) capacitor c=200a
C0 (vin vout) capacitor c=200a
C1 (vdd vin) capacitor c=200a
I14 (vout vin 0) SiNanosheetFET_NFET_ML tox=2 Lg=10 eps_ox=4 V_th=0.2 \
        ln_eps=1e-05 smooth_delta=1e-12 vds_floor=1e-06 \
        vds_sign_smooth=0.001 exp_arg_limit=80 log_id_min=-120 \
        log_id_max=80 gmin_ds=1e-12 Wid=1 qraw_to_c=1e-16 qdensity_scale=1
V2 (net1 0) vsource dc=250.00m mag=1 type=sine
I15 (vout vin vdd) SiNanosheetFET_PFET_ML tox=2 Lg=10 eps_ox=4 V_th=-0.2 \
        ln_eps=1e-05 smooth_delta=1e-12 vds_floor=1e-06 \
        vds_sign_smooth=0.001 exp_arg_limit=80 log_id_min=-120 \
        log_id_max=80 gmin_ds=1e-12 Wid=1 qraw_to_c=1e-16 qdensity_scale=1
V1 (vdd 0) vsource dc=vdd type=dc
V3 (net2 0) vsource dc=vg type=dc
V0 (vin 0) vsource dc=200.0m type=pulse val0=0 val1=500.0m period=100p \
        delay=0 rise=1p fall=1p width=50p
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=400p write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save vin vout 
saveOptions options save=allpub
ahdl_include "/ecel/UFAD/tanvir.ahmed/Desktop/Verilog/SiNanosheetFET/ade/example/nfet/veriloga/veriloga.va"
ahdl_include "/ecel/UFAD/tanvir.ahmed/Desktop/Verilog/SiNanosheetFET/ade/example/pfet/veriloga/veriloga.va"
